* A:\my_projects_Tamisi_Radu\sccs_accel\BIAS.asc
Mn1 N009 N007 0 0 nch l=0.18u w=1u m=multN
Mp1 N002 N001 VDD VDD pch l=0.18u w=3.3u m=multP
Mn2 N005 N006 N009 0 nch l=0.18u w=1u m=multN
Mp2 N005 N003 N002 VDD pch l=0.18u w=3.3u m=multP
Mn3 N008 N007 0 0 nch l=0.18u w=1u m=multN
Mp3 N004 N001 VDD VDD pch l=0.18u w=3.3u m=multP
Mn4 N007 N006 N008 0 nch l=0.18u w=1u m=multN
Mp4 N001 N003 N004 VDD pch l=0.18u w=3.3u m=multP
Mn5 N006 N006 0 0 nch l=0.18u w=1u
Mp5 N003 N003 VDD VDD pch l=0.18u w=3.3u
I1 VDD N006 {Ib_cascn}
I2 N001 N007 {Ib_src}
I3 N003 0 {Ib_cascp}
VDD VDD 0 1.8
Vtest N005 0 V
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\tamis\OneDrive\Documente\LTspiceXVII\lib\cmp\standard.mos
.lib 'log018_no1f.l' TT
.param Ib_cascp = Ib_src * ratio_p
.param Ib_cascn=Ib_src * ratio_n
.param Ib_src = 200u
.param ratio_p=0.27
.param ratio_n=0.33
.dc Vtest 0 1.8 0.01
.param multN=18
.param multP=32
.backanno
.end
